US08492378B2
3-[[[5-(1,2,4-triazolo[1,5-a]pyridin-7-yl)-1,3,4-oxadiazol-2-yl]thio]methyl]benzonitrile
In the same manner as in Example 1 and using 5-(1,2,4-triazolo[1,5-a]pyridin-7-yl)-1,3,4-oxadiazole-2-thiol triethylamine salt instead of 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol and 3-(bromomethyl)benzonitrile instead of 3-(trifluoromethyl)benzyl chloride, the title compound (yield 20%) was obtained as colorless crystals.

reactant | 5-(1,2,4-triazolo[1,5-a]pyridin-7-yl)-1,3,4-oxadiazole-2-thiol triethylamine salt | C(C)N(CC)CC.N=1C=NN2C1C=C(C=C2)C2=NN=C(O2)S
reactant | 3-(bromomethyl)benzonitrile | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
product | 3-[[[5-(1,2,4-triazolo[1,5-a]pyridin-7-yl)-1,3,4-oxadiazol-2-yl]thio]methyl]benzonitrile | yield 20% | N=1C=NN2C1C=C(C=C2)C2=NN=C(O2)SCC=2C=C(C#N)C=CC2 | C16H10N6OS
